Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Beta-Blockers (Beta-Adrenergic Blocking Agts) / calcium channel 
blockers / onions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization w/ balloon angioplasty
Exercise tolerance test

 
History of Present Illness:
Mr. ___ is a ___ with history of 3VD-CAD refused CABG s/p PCI 
(LM and LAD ___, RCA ___, hypertension, and sleep 
apnea presenting today with chest pain. The patient reports that 
he had two episodes of substernal burning today that lasted 
approximately 2 minutes each and both resolved with 
nitroglycerin. The first episode occurred just upon waking while 
at rest and the second occurred while he was walking to 
breakfast, prior to eating. The patient reports having another 
episode on ___ while at rest. He denies any cough, shortness 
of breath, nausea, diaphoresis, or lightheadedness. His chest 
pain feels identical in quality although slightly less severe 
than he had prior to RCA stent placement on ___. Troponin that 
day was 0.08 prior to cath. The patient took aspirin and 
clopidogrel this morning.  
In the ED intial vitals were 97.7 79 148/82 14 99%/RA. Initial 
labs demonstrated a hematocrit of 36.7% (baseline 35-38%), 
unremarkable chem-7, a troponin of 0.13 and MB 5. An EKG 
demonstrated new ST depression in V2-V3, slight depression in 
V4.  
Upon arrival to the floor, initial vital signs were 97.8 158/70 
86 18 96%/RA. Weight upon this admission is 101.8kg. The patient 
endorses the above history and is currently asymptomatic.  
ROS: On review of systems, he denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. He denies recent fevers, 
chills or rigors. He denies exertional buttock or calf pain. All 
of the other review of systems were negative.  
 
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: (-)Diabetes, (?)Dyslipidemia, (+)HTN  
2. CARDIAC HISTORY:  
- CABG: Refused  
- PERCUTANEOUS CORONARY INTERVENTIONS: DES to LM and LAD 
___, DES to RCA ___  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:  
Anxiety/depression  
Tobacco abuse  
OSA  
Chronic low back pain  

 
Social History:
___
Family History:
Brother with history of early MI.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==================================
VS: 97.8 158/70 86 18 96%/RA  
General: Well-appearing obese male in NAD  
HEENT: MMM, sclera anicteric  
Neck: Supple, difficult to appreciate JVD given habitus  
CV: RRR, distant, (+)S1/S2  
Lungs: Generally CTA b/l  
Abdomen: Soft, obese, non-tender  
GU: Deferred  
Ext: Warm, well-perfused, trace ___ edema  
Neuro: Non-focal  
Skin: No obvious rashes  

DISCHARGE PHYSICAL EXAM:
==================================
Tm98.7, BP104-141/62-83, P56-92, R20, O295-100RA
General: Well-appearing obese male in NAD  
HEENT: MMM, sclera anicteric  
Neck: Supple, difficult to appreciate JVD given habitus  
CV: RRR, distant, (+)S1/S2  
Lungs: CTA b/l, no wheezes/rales/rhonchi
Abdomen: Soft, obese, non-tender  
GU: Deferred  
L Groin:large bruising due to premature sheath pull but no 
hematoma or bruit. Dressing c/d/i, mildly TTP
Ext: Warm, well-perfused, trace ___ edema  
Neuro: Non-focal  
Skin: No obvious rashes
 
Pertinent Results:
PERTINENT LABS:
===============================
___ 05:16PM BLOOD WBC-9.6 RBC-3.80* Hgb-11.9* Hct-36.7* 
MCV-97 MCH-31.2 MCHC-32.3 RDW-12.1 Plt ___
___ 04:15AM BLOOD WBC-9.6 RBC-3.84* Hgb-11.8* Hct-37.4* 
MCV-97 MCH-30.8 MCHC-31.6 RDW-12.2 Plt ___
___ 08:05AM BLOOD WBC-9.3 RBC-3.83* Hgb-11.7* Hct-36.9* 
MCV-96 MCH-30.6 MCHC-31.7 RDW-12.0 Plt ___
___ 05:16PM BLOOD Neuts-66.2 ___ Monos-5.2 Eos-1.5 
Baso-0.5
___ 08:05AM BLOOD ___ PTT-31.0 ___
___ 05:16PM BLOOD Glucose-97 UreaN-19 Creat-0.7 Na-136 
K-4.1 Cl-102 HCO3-24 AnGap-14
___ 08:05AM BLOOD Glucose-106* UreaN-14 Creat-0.7 Na-139 
K-4.2 Cl-102 HCO3-29 AnGap-12
___ 05:16PM BLOOD CK(CPK)-174
___ 05:16PM BLOOD cTropnT-0.13*
___ 04:15AM BLOOD CK-MB-4 cTropnT-0.15*
___ 09:15PM BLOOD CK-MB-3 cTropnT-0.19*
___ 04:40AM BLOOD CK-MB-3 cTropnT-0.17*
___ 04:40AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.0

PERTINENT STUDIES:
==============================
EKG: Sinus rhythm. Right bundle-branch block. Leftward axis. 
Lateral ST-T wave changes may be due to myocardial ischemia. 
Clinical correlation is suggested. Compared to the previous 
tracing of ___ the findings are similar. 

CXR: No acute cardiopulmonary process. 

Cardiac CATH ___:
Coronary angiography:  right dominant. Heavily calcified 
vessels.
LMCA:  30% ___ and ostial. Previously deployed stent in mid LAD
extending into LAD is widely patent.
LAD:  Previously deployed stents in proximal segment are widely
patent. Moderate sized (approx 2 mm diameter) D2 jailed by the
stents, and has an ostial 95% stenosis.
LCX:  60% ___, 50% mid, and 60% mid in large OM2 branch
RCA:  widely patent stent in mid segment. 30% distal stenosis.

Impression:
Negative FFR of LCX. 
Successful POBA of ostial D2. 
Please see note in OMR for full procedural details. 

TTE ___:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy. The 
left ventricular cavity size is normal. Sub-optimal endocardial 
visualization; within this limitation, there appears to be mild 
regional left ventricular systolic dysfunction with hypokinesis 
of the basal to mid anterolateral wall and entire inferolateral 
wall. The apex is not well seen. Overall left ventricular 
systolic function is mildly depressed (LVEF= 45-50 %). Right 
ventricular chamber size and free wall motion are normal. The 
number of aortic valve leaflets cannot be determined. There is 
no aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. Trivial mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

IMPRESSION: Mild, symmetric left ventricular hypertrophy, with 
mildly depressed left ventricular function. Valves are not well 
seen, but no clinically significant valvular disease is detected 
by Doppler. Biatrial enlargement. No pericardial effusion.

ETT ___:
IMPRESSION: Submaxinal/symptom-limited ETT with patient achieved 
peak 
exercise level of ~ ___ METS. No anginal symptoms or significant 
ST 
segment changes from baseline. Nonspecific T wave normalization 
noted 
(see above). Appropriate blood pressure response with blunted 
heart rate 
response in the presence of beta blocker therapy. No 
exercise-induced VT 
with only 2 isolated VPBs noted during the procedure. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
================================
___ with history of 3VD-CAD who elected PCI, now s/p DES to LM, 
LAD, and RCA presenting with substernal chest pain earlier 
today, found to have mild troponin elevation with new ST 
depression (V3), and is s/p PCI w/ POBA of D1 branch of LCA and 
was chest pain since then, but noted to have asymptomatic NSVT 
(38beats) x 1 episode

ACTIVE ISSUES:
================================
#CAD
Pt has known hx of 3VD-CAD who elected PCI (vs CABG), who 
previously was s/p DES to LM, LAD, and RCA who presented on this 
admission with substernal chest pain, was found to have mild 
troponin elevation with new ST depression (V3), and is now s/p 
PCI w/ POBA of D1 branch of LCA.

Subsequent to PCI, pt remained CP free but was noted to have 
asymptomatic NSVT (38beats) x 1 episode, that was not in the 
setting of any electrolyte abnormalities. See below for 
evaluation/treatment details. 

Otherwise, pt was continued on ASA, Plavix, Atorvastatin, and 
was started on Metoprolol after long discussion. Pt has listed 
allergy to Metoprolol but in actuality he avoids it as it made 
his depression worse in the past. Though in light of the 
frequency of his anginal episodes, the benefits of Metoprolol 
clearly outweighed the risks. For this reason, Metoprolol was 
started with the patient's permission.

#NSVT
Subsequent to PCI, pt remained CP free but was noted to have 
asymptomatic NSVT (38beats) x 1 episode, that was not in the 
setting of any electrolyte abnormalities.

Accordingly, pt had exercise stress test which showed no 
exercise induced VT with only 2 isolated VPBs noted during the 
procedure. He also had TTE which showed LVEF 45-50%, mild 
symmetric LVH, mildly depressed LV function, mild regional LV 
systolic dysfunction w/ hypokinesis of basal to mid 
anterolateral wall and entire inferolateral wall. 

Given such findings, it was felt that pt may have either 
arrhythmogenic scar tissue in the inferiolateral wall or 
infiltrative process (ex: sarcoid) that may predispose him to 
arrhythmias. Accodingly, he was discharged to home with 
outpatient cardiology follow up and was scheduled for elective 
outpatient cardiac MRI (to evaluate for previously mentioned 
etiologies).

CHRONIC ISSUES:
============================
#Hypertension:  
Patient with history of hypertension, and was mildly 
hypertensive upon arrival but remained within an acceptable 
range on home dose lisinopril, chlorthalidone and metoprolol. OF 
note, amlodipine was stopped during this admission given 
addition of Metoprolol Succinate.

#Obstructive sleep apnea:  
Patient with history of sleep apnea, and uses CPAP at home. He 
did not bring his machine with him so was provided with one 
which he used nightly.

#Anxiety/depression:  
Well-controlled currently so was continued on home regimen 
(lithium, ativan, prozac).

TRANSITIONAL ISSUES:
============================
1. Given inferior wall motion abnormalities, pt will need 
cardiac MRI to determine whether arrhythmogenic scar or 
infiltrative disease exists, that could account for NSVT. 
Cardiac MRI office will call pt next week to schedule elective 
study.
2.Pt will need to attend f/u with PCP for general healthcare 
maintenance
3.Pt will need to f/u w/ his cardiologist regarding his anginal 
symptomatology s/p PCI. Moreover, he will need to have his 
B-Blocker titrated as needed.

CODE STATUS: FULL (confirmed w/ pt)
CONTACT: ___ (brother) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin EC 325 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Chlorthalidone 25 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Fluoxetine 10 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. Lithium Carbonate 450 mg PO QHS 
8. Nitroglycerin SL 0.3 mg SL PRN chest pain 
9. tadalafil 20 mg oral daily 
10. Amlodipine 2.5 mg PO DAILY 

 
Discharge Medications:
1. Aspirin EC 325 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Chlorthalidone 25 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Fluoxetine 10 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. Lithium Carbonate 450 mg PO QHS 
8. Nitroglycerin SL 0.3 mg SL PRN chest pain 
9. tadalafil 20 mg oral daily 
10. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Coronary artery disease, non sustained ventricular 
tachycardia
Secondary: Hypertension, depression

 
Discharge Condition:
Discharge Condition: Stable
Mental Status: AOx3 (baseline)
Ambulatory Status: Independent (baseline)

 
Discharge Instructions:
Dr. ___,

___ was a pleasure taking part in your care at ___.  You were 
admitted with chest pain.  You underwent a cardiac 
catheterization and underwent a balloon angioplasty.  We noted 
that you had a run of ventricular tachycardia, a dangerous heart 
rhythm.  Your resting echo looked slightly different that prior 
studies, so you underwent a repeat partial stress test.  You had 
2 VPBs and no inducible ventricular tachycardia.  We recommend 
you have an outpatient cardiac MRI to evaluate your heart 
muscle. Our office will call you next week to schedule an 
appointment that fits into your schedule.

Given your heart disease and ventricular tachycardia, we think 
it is very important that you take metoprolol.
 
Followup Instructions:
___